US07592365B2
0.076 cm3 (0.436 mmol) of 2-fluoro-5-trifluoromethylphenyl isocyanate is added at a temperature in the region of 25° C. to 0.125 g (0.436 mmol) of 2-isobutyrylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide in solution in 15 cm3 of tetrahydrofuran. After stirring for 17 hours at a temperature in the region of 25° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is then diluted in 40 cm3 of ethyl acetate and then washed with 40 cm3 of water. The organic solution is dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is crystallized from 8 cm3 of a cyclohexane/ethyl acetate mixture (70/30 by volume). After filtration and drying, 0.096 g of 2-isobutyrylamino-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-3-carboxamide is obtained in the form of a cream solid melting at 196° C. IR (KBr), 3472; 3384; 1667; 1594; 1546; 1443; 1340; 1313; 1198; 1167; 1120; 1070; 937 & 614 cm−1. 1H NMR (400 MHz, (CD3)2SO, —δ in ppm), 1.17 (d, J=7.0 Hz, 6H); 2.61 (m, 1H); 5.62 (broad m, 1H); 6.40 (d, J=2.5 Hz, 1H); 7.00 (broad m, 1H); 7.30 (d, J=9.0 Hz, 2H); 7.39 (m, 1H); 7.49 (m partially masked, 1H); 7.51 (d, J=9.0 Hz, 2H); 8.62 (dd, J=2.5 and 7.5 Hz, 1H); 8.99 (broad s, 1H); 9.32 (broad s, 1H); 10.95 (broad s, 1H); 11.45 (broad s, 1H).

reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.436 mmol, 0.076 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | 2-isobutyrylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | 0.436 mmol | C(C(C)C)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)N | C15H18N4O2
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 2-isobutyrylamino-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-3-carboxamide | 0.096 g | C(C(C)C)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C23H21F4N5O3
